US08334287B2
6-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-1H-pyrazin-2-one
A solution of 75 mg (0.214 mmol) 2-Allyloxy-6-[4-(3-chloro-phenylethynyl)-2-methyl imidazol-1-yl]-pyrazine in 5 ml of methylene chloride was degassed with argon. Then 0.052 ml (0.428 mmol) of phenyl silane and 2.5 mg (0.002 mmol) of tetrakis(triphenyl-phosphine)palladium were added and the mixture was stirred for 1 h at room temperature. Then water (1 ml) was added and the mixture was vigourously stirred for 5 min., diluted with 10 ml of methylene chloride and the organic phase was washed with water and brine, dried over magnesium sulfate and concentrated. The obtained solid was triturated with benzene to remove impurities (triphenylphosphine oxide), filtered and dried to yield 30 mg (0.097 mmol, 45%) of the title compound as a white crystalline solid, MS: m/e=311.1, 313.1 (M+H+)

reactant | 2-Allyloxy-6-[4-(3-chloro-phenylethynyl)-2-methyl imidazol-1-yl]-pyrazine | 0.214 mmol, 75 mg | C(C=C)OC1=NC(=CN=C1)N1C(=NC(=C1)C#CC1=CC(=CC=C1)Cl)C | C19H15ClN4O
reactant | phenyl silane | 0.428 mmol, 0.052 ml | C1(=CC=CC=C1)[SiH3] | C6H8Si
reactant | water | 1 ml | O | H2O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 6-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-1H-pyrazin-2-one | 0.097 mmol, 30 mg, 45% | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1)C1=CN=CC(N1)=O)C | C16H11ClN4O
